US04997840
A solution of 1-[4-chloro-2-(methylamino)phenyl-2-methylsulphinylethanone (17 g) in a mixture of glacial acetic acid (35 ml) and absolute ethanol (35 ml) was added dropwise over 20 minutes to a stirred suspension of zinc dust (22.5 g) in acetic acid (20 ml) and absolute ethanol (35 ml) under nitrogen at ambient temperature. After stirring at ambient temperature for 24 hours, the reaction mixture was filtered through diatomaceous earth (sold under the trade name CELITE) and the filter bed was washed with glacial acetic acid (200 ml). Water (600 ml) was added to the combined filtrate and washing and the mixture was extracted with dichloromethane (3×200 ml). The combined extracts were dried over magnesium sulphate and the solvent was removed by distillation to give the novel compound 4'-chloro-2'-(methylamino)acetophenone, m.p. 65°-66°.

reactant | 4-chloro-2-(methylamino)phenyl-2-methylsulphinylethanone | 17 g | ClC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12ClNO2S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | zinc | 22.5 g | [Zn] | Zn
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 4'-chloro-2'-(methylamino)acetophenone | ClC1=CC(=C(C=C1)C(C)=O)NC | C9H10ClNO
